US07220744B2
(a) 2-Cyclobutylmethoxy-5-methanesulfonyl-benzoic acid methyl ester
A solution of 6.51 mmol 2-hydroxy-5-methanesulfonyl-benzoic acid methyl ester (WO 2002074774), 9.77 mmol triphenylphosphine, 7.17 mmol cyclobutyl methanol and 7.17 mmol di-tert-butyl azodicarboxylate in 20 ml THF was stirred at 60° C. for 2 hours. The reaction mixture was then concentrated in vacuo and purified by column chromatography (SiO2) to yield the title compound as a light yellow oil.

reactant | 2-hydroxy-5-methanesulfonyl-benzoic acid methyl ester | 6.51 mmol | COC(C1=C(C=CC(=C1)S(=O)(=O)C)O)=O | C9H10O5S
reactant | triphenylphosphine | 9.77 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | cyclobutyl methanol | 7.17 mmol | C1(CCC1)CO | C5H10O
reactant | di-tert-butyl azodicarboxylate | 7.17 mmol | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-Cyclobutylmethoxy-5-methanesulfonyl-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)S(=O)(=O)C)OCC1CCC1)=O | C14H18O5S
